US07759337B2
Synthesis of N-Cyclopropyl-4-fluoro-3-(1-morpholin-4-ylphthalazin-6-yl)benzamide
To 4-fluoro-3-(1-morpholinophthalazin-6-yl)benzoic acid (200 mg, 566 μmol) was added thionyl chloride (2.83 mL) before it was heated to 65° C. for 1 h. The reaction mixture was concentrated in vacuo and azeotropically dried with toluene. Dioxane (2.83 mL,), diisopropylethylamine (493 μl, 2830 μmol), and cyclopropylamine (323 μl, 5660 μmol) were added and the mixture was stirred at RT overnight. The reaction mixture was diluted with 50 mL of ethyl acetate, added to a separation funnel, partitioned with sodium bicarbonate (saturated, aqueous), washed 2 times with 20 mL of sodium bicarbonate (saturated, aqueous), separated, dried over sodium sulfate, concentrated in vacuo, and purified by HPLC to give the title compound. MS (ES+): 393 (M+H)+.

reactant | 4-fluoro-3-(1-morpholinophthalazin-6-yl)benzoic acid | 566 μmol, 200 mg | FC1=C(C=C(C(=O)O)C=C1)C=1C=C2C=NN=C(C2=CC1)N1CCOCC1 | C19H16FN3O3
reactant | thionyl chloride | 2.83 mL | S(=O)(Cl)Cl | Cl2OS
reactant | diisopropylethylamine | 2830 μmol, 493 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropylamine | 5660 μmol, 323 μl | C1(CC1)N | C3H7N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | Dioxane | 2.83 mL | O1CCOCC1 | C4H8O2
product | N-Cyclopropyl-4-fluoro-3-(1-morpholin-4-ylphthalazin-6-yl)benzamide | C1(CC1)NC(C1=CC(=C(C=C1)F)C=1C=C2C=NN=C(C2=CC1)N1CCOCC1)=O | C22H21FN4O2
